* Schematics Netlist *



Q_Q1         $N_0002 $N_0001 $N_0003 Q2N3904
Q_Q2         $N_0005 $N_0004 $N_0006 Q2N3904
Q_Q3         $N_0008 $N_0007 $N_0009 Q2N3904
R_R2         $N_0011 $N_0010  100k  
R_R1         $N_0012 $N_0010  5.6k  
R_R3         $N_0001 $N_0010  100k  
R_R5         $N_0004 $N_0010  100k  
R_R8         $N_0007 $N_0010  100k  
R_R4         $N_0002 $N_0010  5.6k  
R_R6         $N_0005 $N_0010  5.6k  
R_R7         $N_0008 $N_0010  5.6k  
C_C3         $N_0002 $N_0004  10u  
C_C4         $N_0005 $N_0007  10u  
C_C2         $N_0012 $N_0001  10u  
Q_Q4         $N_0012 $N_0011 $N_0013 Q2N3904
V_V2         $N_0010 0 12V
R_R12         0 $N_0007  18k  
R_R9         0 $N_0006  1k  
R_R11         0 $N_0009  1k  
R_R10         0 $N_0004  18k  
R_R13         0 $N_0003  1k  
R_R14         0 $N_0001  18k  
R_R15         0 $N_0013  1k  
R_R16         0 $N_0011  18k  
C_C5         $N_0008 $N_0014  10u  
C_C1         $N_0015 $N_0011  10u  
R_load         0 $N_0014  100k  
V_Source         $N_0015 0 DC 0V AC 0.01V 
